US05559111
b) 3(R)-Benzyloxycarbonylamino-4-methylpentanoic acid N,N-dimethylamide
2.23 g of 3(R)-benzyloxycarbonylamino-4-methylpentanoic acid ethyl ester and 50 ml of 30% dimethylamine (in methanol) are stirred for 6 days at 75° C. in a bomb tube. The reaction mixture is concentrated by evaporation and the residue is purified by FC (dichloromethane/methanol=97:3). The title compound is obtained: Rf (dichloromethane/methanol=95:5)=0.40.

reactant | 3(R)-benzyloxycarbonylamino-4-methylpentanoic acid ethyl ester | 2.23 g | C(C)OC(C[C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C16H23NO4
reactant | dimethylamine | 50 ml | CNC | C2H7N
product | 3(R)-Benzyloxycarbonylamino-4-methylpentanoic acid N,N-dimethylamide | CN(C(C[C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O)C | C16H24N2O3
